US08912188B2
To a solution of (S)-methyl 3-(2-methylpyrrolidin-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate (200 mg, crude) in dioxane (6 mL) was added benzofuran-2-ylboronic acid (113.0 mg, 0.70 mmol), K3PO4 (220.0 mg, 1.04 mmol), Pd(PPh3)4 (20.1 mg, 0.02 mmol) and water (3 drops). The resulting solution was stirred for 1 h at 90° C. and then concentrated under vacuum to give a residue, which was purified by a silica gel column with 1%-5% ethyl acetate in petroleum ether to afford (S)-methyl 2-(benzofuran-2-yl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate as a red oil (100.0 mg).

reactant | (S)-methyl 3-(2-methylpyrrolidin-1-yl)-2-(trifluoromethylsulfonyloxy)quinoxaline-6-carboxylate | 200 mg | C[C@@H]1N(CCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)OS(=O)(=O)C(F)(F)F | C16H16F3N3O5S
reactant | benzofuran-2-ylboronic acid | 0.70 mmol, 113.0 mg | O1C(=CC2=C1C=CC=C2)B(O)O | C8H7BO3
reactant | K3PO4 | 1.04 mmol, 220.0 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | water | 3 drops | O | H2O
catalyst | Pd(PPh3)4 | 0.02 mmol, 20.1 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-methyl 2-(benzofuran-2-yl)-3-(2-methylpyrrolidin-1-yl)quinoxaline-6-carboxylate | 100.0 mg | O1C(=CC2=C1C=CC=C2)C2=NC1=CC=C(C=C1N=C2N2[C@H](CCC2)C)C(=O)OC | C23H21N3O3
